US09085555B2
A. 1-(2-Benzyloxy-acetyl)-1H-indole-3-carbaldehyde
To a solution of indole-3-carboxaldehyde (2 g, 13.8 mmol) in THF (70 mL) at 5° C., was added NaH (60% in mineral oil, 551 mg, 13.8 mmol) under nitrogen atmosphere. The mixture was stirred at 5° C. for 30 min before dropwise addition of benzyloxyacetyl chloride (2.6 mL, 16.53 mmol) over 20 min maintaining the internal temperature between 5° C. and 10° C. The resulting dark solution was further stirred at RT for 1 h. As the reaction was not completed benzyloxyacetyl chloride (1 mL, 6.44 mmol, 0.5 eq) and NaH (60% in mineral oil, 551 mg, 13.8 mmol) were added and the mixture was further stirred at RT for 3 days. The reaction mixture was concentrated, and the residue taken up in CH2Cl2 and washed with water. The organic layer was dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 4-1) corresponding to the desired compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.61; MS (LC/MS): 294.1 [M+H]+, 316.1 [M+Na]+; tR (HPLC conditions a): 3.87 min.

reactant | indole-3-carboxaldehyde | 13.8 mmol, 2 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | NaH | 13.8 mmol, 551 mg | [H-].[Na+]
reactant | benzyloxyacetyl chloride | 16.53 mmol, 2.6 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | benzyloxyacetyl chloride | 6.44 mmol, 1 mL, 0.5 eq | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | NaH | 13.8 mmol, 551 mg | [H-].[Na+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-(2-Benzyloxy-acetyl)-1H-indole-3-carbaldehyde | C(C1=CC=CC=C1)OCC(=O)N1C=C(C2=CC=CC=C12)C=O | C18H15NO3
